US07504196B2
5-({3-[(3-formyl-4-hydroxyphenyl)methyl]-2-hydroxy-5-methylphenyl}methyl)-2-hydroxybenzaldehyde
Under an atmosphere of nitrogen, 244.0 g (2.0 mol) of salicylaldehyde was weighed into a four-neck flask with a capacity of 1 liter fitted with a reflux condenser, a thermometer and a stirrer, and 244.0 g of a 75% aqueous solution of phosphoric acid was then added dropwise to the flask over a period of 30 minutes and stirred at room temperature. 84.0 g (0.5 mol) of a powdered form of 2,6-bis(hydroxymethyl)-4-methylphenol was then added to the mixed solution intermittently at 60° C. over a 6 hour period, and the resulting mixture was then stirred for a further 17 hours. 366.0 g of methyl isobutyl ketone was then added to the reaction mixture, a phase separation was performed, and the 235.0 g water layer (phase) was removed. The reaction system was then neutralized by adding 80.6 g of a 16% aqueous solution of sodium hydroxide, 150 g of water was added, water washing was conducted at 80° C., and the water phase was then separated and removed. This water washing and separation operation was repeated a further two times, the resulting residue was concentrated under reduced pressure at 160° C., and following the addition of 94.0 g of methyl isobutyl ketone to the residue at 120° C., 470.0 g of toluene was added at 110° C. to crystallize the product. The resulting crystals were isolated by filtration, yielding 160.6 g of a wet cake. This wet cake was transferred to a four-neck flask with a capacity of 1 liter, and dissolved by adding 240.0 g of methyl isobutyl ketone. Subsequently, the solution was concentrated at normal pressure by heating to 130° C., 184.0 g of toluene was added, and a further concentration was conducted at normal pressure by heating to 115° C. 240.0 g of toluene was then added to the residue to crystallize the product. The crystals were collected by filtration, yielding 89.7 g (yield: 47.7%) of the target product (the precursor compound). (Identification by LC-MS (liquid chromatography-mass spectrometry) (using APCI (Atmospheric Pressure Chemical Ionization)) revealed a Mw value of 375).

reactant | salicylaldehyde | 2.0 mol, 244.0 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | 2,6-bis(hydroxymethyl)-4-methylphenol | OCC1=C(C(=CC(=C1)C)CO)O | C9H12O3
solvent | methyl isobutyl ketone | 240.0 g | C(C(C)C)C(=O)C | C6H12O
solvent | methyl isobutyl ketone | 366.0 g | C(C(C)C)C(=O)C | C6H12O
product | 5-({3-[(3-formyl-4-hydroxyphenyl)methyl]-2-hydroxy-5-methylphenyl}methyl)-2-hydroxybenzaldehyde | 89.7 g, yield: 47.7% | C(=O)C=1C=C(C=CC1O)CC=1C(=C(C=C(C1)C)CC=1C=CC(=C(C=O)C1)O)O | C23H20O5
